US06319946B1
N-(2-methylpropylidene)-2-methyl-2-propanamine
To a stirred solution of t-butylamine (20.0 mL, 190 mmol) in anhydrous ether (200 mL) was added magnesium sulfate (20 g). A solution of isobutyraldehyde (17.3 mL, 190 mmol) in ether (50 mL) was then added dropwise over 30 minutes. After stirring at ambient temperature for 3 days, the reaction was filtered and the ether removed in vacuo (300 mm). The residual liquid was distilled to afford the title compound (14.0 g, 58%) as a colorless liquid; bp 52° C. (75 mm);

reactant | t-butylamine | 190 mmol, 20.0 mL | C(C)(C)(C)N | C4H11N
reactant | magnesium sulfate | 20 g | S(=O)(=O)([O-])[O-].[Mg+2]
reactant | isobutyraldehyde | 190 mmol, 17.3 mL | C(C(C)C)=O | C4H8O
solvent | ether | 200 mL | CCOCC | C4H10O
solvent | ether | 50 mL | CCOCC | C4H10O
product | N-(2-methylpropylidene)-2-methyl-2-propanamine | 14.0 g, 58% | CC(C=NC(C)(C)C)C | C8H17N
